US06248766B1
[[2-(3,3-Diphenylpropyl)thio-4,5-dihydronaphtho[1,2-d]thiazol-7-yl]oxy]acetic Acid
Using ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-7-yl)oxy]acetate and 3,3-diphenylpropyl iodide, the procedure of Example 1 was otherwise repeated to synthesize the title compound. Yield 54%.

reactant | ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-7-yl)oxy]acetate | C(C)OC(COC=1C=C2CCC3=C(N=C(S3)S)C2=CC1)=O | C15H15NO3S2
reactant | 3,3-diphenylpropyl iodide | C1(=CC=CC=C1)C(CCI)C1=CC=CC=C1 | C15H15I
product | [[2-(3,3-Diphenylpropyl)thio-4,5-dihydronaphtho[1,2-d]thiazol-7-yl]oxy]acetic Acid | Yield 54% | C1(=CC=CC=C1)C(CCSC=1SC2=C(N1)C1=CC=C(C=C1CC2)OCC(=O)O)C2=CC=CC=C2 | C28H25NO3S2
